US08865736B2
3-[2-(4-Chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,6-difluoro-benzamide
To a solution of 4-Bromomethyl-2-(4-chloro-phenyl)-5-methyl-oxazole (0.12 g, 0.42 mmol) in 2 ml of anhydrous DMF was added 2,6-Difluoro-3-hydroxy-benzamide (0.072 g, 0.42 mmol) and potassium carbonate (0.203 g, 1.20 mmol). The reaction mixture was stirred at 25° C. for 24 h under nitrogen atmosphere. The reaction mixture was evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica (60-120 M) using ethyl acetate/hexane (50:50) as the eluent to provide the title compound as white solid (0.01 g, 6%). 1H NMR (DMSO-d6, 400 MHz): δ 2.49 (s, 3H), 5.09 (s, 2H), 7.11 (m, 1H), 7.38 (m, 1H), 7.60 (d, J=8.40 Hz, 2H), 7.85 (br s, 1H), 7.95 (d, J=8.40 Hz, 2H) and 8.13 (br s, 1H). MS ES+ (379.25), HPLC (method I) Rt=16.71 min.

reactant | 4-Bromomethyl-2-(4-chloro-phenyl)-5-methyl-oxazole | 0.42 mmol, 0.12 g | BrCC=1N=C(OC1C)C1=CC=C(C=C1)Cl | C11H9BrClNO
reactant | 2,6-Difluoro-3-hydroxy-benzamide | 0.42 mmol, 0.072 g | FC1=C(C(=O)N)C(=CC=C1O)F | C7H5F2NO2
reactant | potassium carbonate | 1.20 mmol, 0.203 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-[2-(4-Chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,6-difluoro-benzamide | 0.01 g, 6% | ClC1=CC=C(C=C1)C=1OC(=C(N1)COC=1C(=C(C(=O)N)C(=CC1)F)F)C | C18H13ClF2N2O3
